US08426449B2
Step 2: (3-{4-Bromo-2-[(methoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-phenyl)-acetic acid
To (3-{4-bromo-2-[(methoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester in THF and MeOH was added lithium hydroxide, and the reaction was stirred overnight at room temperature. The mixture was acidified with 1N aqueous HCl and extracted with EtOAc, and the combined organic layers were concentrated and purified by preparative HPLC to give the title compound. M+H=498.

reactant | (3-{4-bromo-2-[(methoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN(CCC1=CC=CC=C1)C(=O)OC)=O | C26H26BrNO5
reactant | lithium hydroxide | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | (3-{4-Bromo-2-[(methoxycarbonyl-phenethyl-amino)-methyl]-phenoxy}-phenyl)-acetic acid | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN(CCC1=CC=CC=C1)C(=O)OC | C25H24BrNO5
